US05716954
A solution of 2,3-pyridinyldicarboxylic anhydride (20 g, 134 mmoles) in 25 ml of anhydrous methanol was refluxed for 30 minutes. The methanol was removed and the two positional isomers (2-carboxy-3-methoxycarbonylpyridine and 2-methoxycarbonyl-3-carboxypyridine) are isolated and separated. The 2-carboxy-3-methoxycarbonyl pyridine was added to a solution of 3-nitrobenzaldehyde (101.35 g, 670 mmoles) in p-cymene (105 ml, 670 mmoles) and heated at 180° C. for 13.5 hours. The solution was cooled, filtered and the excess 3-nitrobenzaldehyde and p-cymene removed by bulb to bulb distillation using a Kugelrohr apparatus. The residue was triturated with methylene chloride and the solid residue was discarded. The product was isolated from the filtrate yielding 12.7 g of 7-(3-nitrophenyl)-furo[3,4-b]pyridin-5-one (37.2%).

reactant | 2-carboxy-3-methoxycarbonyl pyridine | C(=O)(O)C1=NC=CC=C1C(=O)OC | C8H7NO4
reactant | 3-nitrobenzaldehyde | 670 mmoles, 101.35 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | p-cymene | 670 mmoles, 105 ml | CC=1C=CC(=CC1)C(C)C | C10H14
product | 7-(3-nitrophenyl)-furo[3,4-b]pyridin-5-one | 12.7 g, 37.2% | [N+](=O)([O-])C=1C=C(C=CC1)C1OC(C=2C1=NC=CC2)=O | C13H8N2O4
